US07524849B2
To a mixture of diethyl 2-(2,4,6-trifluorophenyl)malonate (580 mg, 2.0 mmol, U.S. Pat. No. 6,156,925) and urea (360 mg, 6.0 mmol) in 10 mL of ethyl alcohol at room temperature is added sodium hydride (60% in mineral oil, 160 mg, 4.0 mmol). The mixture is then heated at 80° C. for 3 days, cooled to room temperature, and partitioned between ethyl acetate and 1N hydrochloric acid. The aqueous layer is extracted with ethyl acetate, and the combined organic extracts are dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of ethyl acetate to 10% methyl alcohol in ethyl acetate. Concentration provides 5-(2,4,6-trifluorophenyl)pyrimidine-2,4,6-triol as a light tan solid (148 mg). MS: m/z 257.0 (M−H).

reactant | diethyl 2-(2,4,6-trifluorophenyl)malonate | FC1=C(C(=CC(=C1)F)F)C(C(=O)OCC)C(=O)OCC | C13H13F3O4
reactant | urea | 6.0 mmol, 360 mg | NC(=O)N | CH4N2O
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | 5-(2,4,6-trifluorophenyl)pyrimidine-2,4,6-triol | 148 mg | FC1=C(C(=CC(=C1)F)F)C=1C(=NC(=NC1O)O)O | C10H5F3N2O3
